US07427683B2
d) 5-Cyano-furan-2-carboxylic acid (4-methoxy-2-piperidin-1-yl-phenyl)-amide
Using a procedure similar to Example 1, step (e), 5-cyano-furan-2-carbonyl chloride (66 mg, 0.43 mmol) was allowed to react with 4-methoxy-2-piperidin-1-yl-phenylamine (67 mg, 0.32 mmol, as prepared in the previous step) in the presence of DIEA (164 μL, 0.940 mmol) for 2 h to afford 62 mg (60%) of the title compound as a yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 9.49 (br s, 1H) 8.35 (d, 1H, J=8.9 Hz), 7.27-7.22 (m, 1H), 6.76 (d, 1H, J=2.7 Hz), 6.71 (dd, 1H, J=2.8, 8.9 Hz), 3.81 (s, 3H), 2.85-2.83 (m, 4H), 1.84-1.78 (m, 4H), 1.66-1.65 (m, 2H); Mass spectrum (ESI, m/z): Calcd. for C18H19N3O3, 326.1 (M+H), found 326.1.

reactant | 5-cyano-furan-2-carbonyl chloride | 0.43 mmol, 66 mg | C(#N)C1=CC=C(O1)C(=O)Cl | C6H2ClNO2
reactant | 4-methoxy-2-piperidin-1-yl-phenylamine | COC1=CC(=C(C=C1)N)N1CCCCC1 | C12H18N2O
reactant | DIEA | 0.940 mmol, 164 μL | CCN(C(C)C)C(C)C | C8H19N
product | 5-Cyano-furan-2-carboxylic acid (4-methoxy-2-piperidin-1-yl-phenyl)-amide | 62 mg, 60% | COC1=CC(=C(C=C1)NC(=O)C=1OC(=CC1)C#N)N1CCCCC1 | C18H19N3O3
